US07595398B2
Rac-trans -2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-cyclopentanecarboxylic acid methyl ester (Compound 5346).
Rac-trans-cyclopentane-1,2-dicarboxylic acid monomethyl ester (86 mg) was dissolved in DMF (5 mL) and treated with HATU (1.1 eq. 214 mg) and DIEA (3 eq, 267 μL) and stirred for 15 minutes. Then 4-(2-amino-thiazol-4-yl)-N-cyclopropyl-benzamide (1 eq, 129.5 mg) was added and the mixture stirred at ambient temperature overnight. The reaction was cooled, filtered and the solvents removed. The resulting mixture was redissolved in 5 ml of 90% DMF, 10% water with 0.1% TFA and purified by reverse phase HPLC to give the product. Yield 14 mg. MS: 414.5 (M+H+); H1-NMR (DMSO-d6): δ(ppm) 12.4 (s, 1H), 8.4 (m, 2H), 7.9-7.7 (m, 5H), 3.6 (s, 3H), 3.2 (m, 2H), 2.8 (m, 1H), 2.0 (m, 2H), 1.7 (m, 4H) 0.7-0.6 (m, 4H).

reactant | Rac-trans-cyclopentane-1,2-dicarboxylic acid monomethyl ester | 86 mg | COC(=O)[C@H]1[C@@H](CCC1)C(=O)O | C8H12O4
reactant | HATU | 214 mg, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 267 μL, 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-amino-thiazol-4-yl)-N-cyclopropyl-benzamide | 129.5 mg, 1 eq | NC=1SC=C(N1)C1=CC=C(C(=O)NC2CC2)C=C1 | C13H13N3OS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Rac-trans -2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C21H23N3O4S
